US09102685B2
1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((R)-1-hydroxy-2-nitroethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate
The reaction was charged with 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-formyl-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (15.75 g, 1 equiv), tert-butanol (157 ml, 10 vol) and toluene (47 ml, 3 vol) and stirred at ambient temperature. The ligand (N1,N2-bis(1,7,7-trimethylbicyclo[2.2.1]heptan-2-yl)ethane-1,2-diamine, derived from (S)-camphor, 0.492 g, 0.06 equiv) and copper (II) acetate mono hydrate (0.246 g, 0.05 equiv) were added in a single portion and reaction allowed to stir at ambient temperature for at least 2.5 hours (see note 1). The reaction is charged with nitromethane (7.52 g, 5 equiv) and Hunig's base (“N,N-diisopropylethylamine”-3.82 g, 1.2 equiv) and allowed to stir at ambient temperature for approximately 5 days. (See note 2). Reaction concentrated under vacuum at bath temp of no more than 35° C. to approximately 2 vols. (See note 3). Reaction charged with toluene (236 ml, 15 vols) and concentrated under vacuum again to approx 3 vols. Additional toluene (95 ml, 3 vol) was added to achieve a final reaction volume of approx 6 vols. Heptane (158 ml, 10 vols) was added slowly of to solution. Product began to crystallize out of solution upon seeding. Reaction was allowed to stir at ambient temperature for one to two hours and solids collected by filtration and washed with 10 vols of heptane. Solids were dried to a weight of 14.3 g (83% yield). Purity of isolated solid is typically ˜90-95% with a 98/2 diastereomeric ratio favoring 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((R)-1-hydroxy-2-nitroethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate as the major diastereomer.

reactant | 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-formyl-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 15.75 g, 1 equiv | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)C=O)C)C)(C)C)C | C40H62O6
reactant | N1,N2-bis(1,7,7-trimethylbicyclo[2.2.1]heptan-2-yl)ethane-1,2-diamine | CC12C(CC(CC1)C2(C)C)NCCNC2C1(CCC(C2)C1(C)C)C | C22H40N2
reactant | (S)-camphor | [C@@]12(C(=O)CC(CC1)C2(C)C)C | C10H16O
reactant | nitromethane | 7.52 g, 5 equiv | [N+](=O)([O-])C | CH3NO2
reactant | Hunig's base | -3.82 g, 1.2 equiv | CCN(C(C)C)C(C)C | C8H19N
catalyst | copper (II) acetate mono hydrate | 0.246 g, 0.05 equiv | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | Heptane | 158 ml | CCCCCCC | C7H16
solvent | toluene | 236 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 47 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-butanol | 157 ml | C(C)(C)(C)O | C4H10O
product | 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((R)-1-hydroxy-2-nitroethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 83% yield | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)[C@H](C[N+](=O)[O-])O)C)C)(C)C)C | C41H65NO8
